US07582775B2
B. 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid
A solution of 2-(1-ethyl-1-hydroxy-propyl)-benzo[b]thiophene-6-carboxylic acid (3.80 g, 14.4 mmol) and o-cresol (1.94 g, 18.0 mmol) in CH2Cl2 (100 mL) at −40° C. is added BF3-Et2O (1.02 g, 7.20 mol). After stirring for 10 min, the reaction mixture is allowed to warm up to 0° C. over 30 min. The reaction is quenched with water (15 mL) and the aqueous layer is extracted with EtOAc (50 mL). The organic layer is dried over Na2SO4, concentrated, and purified by silica gel column chromatography (2% HOAc in 50% EtOAc/Hex) to give the product (3.98 g, 78%).

reactant | 2-(1-ethyl-1-hydroxy-propyl)-benzo[b]thiophene-6-carboxylic acid | 14.4 mmol, 3.80 g | C(C)C(CC)(O)C1=CC2=C(S1)C=C(C=C2)C(=O)O | C14H16O3S
reactant | o-cresol | 18.0 mmol, 1.94 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 Et2O | 7.20 mol, 1.02 g | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid | 3.98 g, 78% | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC2=C(S1)C=C(C=C2)C(=O)O | C21H22O3S
